US06774245B2
A solution of 7-bromo-3-hydroxymethyl-4-methyl-benzo[b]thiophene (45.91 g, 179 mmol) in toluene-THF (5/1, 220 ml) was placed in an ice bath, to which a solution of 3.4 M sodium hydrogenated bis(2-methoxyethoxy)aluminum in toluene (215 ml, 731 mmol) was added dropwise over 30 minutes. After the dropwise addition was complete, the reaction mixture was stirred at 70° C. for 3 hours, and it was brought back to room temperature and placed in an ice bath, to which ethyl acetate (300 ml) was slowly added dropwise. After stirring in the ice bath for 5 minutes, water (600 ml) was slowly added dropwise. The internal temperature increased from 17° C. to 35° C. To the reaction mixture, 1 L of water and 500 ml of ethyl acetate were added, and extracted. The aqueous phase was further extracted with 300 ml of ethyl acetate, and the combined organic phase was washed with water (300 ml×6 times). After drying the organic phase on magnesium sulfate, the solvent was evaporated to obtain pale orange crude crystals 3-hydroxymethyl-4-methyl-benzo[b]thiophene (30.80 g, 173 mmol). The yield was 97%.

reactant | 7-bromo-3-hydroxymethyl-4-methyl-benzo[b]thiophene | 179 mmol, 45.91 g | BrC1=CC=C(C2=C1SC=C2CO)C | C10H9BrOS
reactant | toluene | 731 mmol, 215 ml | C1(=CC=CC=C1)C | C7H8
reactant | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
reactant | water | 600 ml | O | H2O
reactant | water | 1 L | O | H2O
reactant | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
solvent | toluene THF | 220 ml | C1(=CC=CC=C1)C.C1CCOC1
product | 3-hydroxymethyl-4-methyl-benzo[b]thiophene | 173 mmol, 30.80 g, yield was 97% | OCC=1C2=C(SC1)C=CC=C2C | C10H10OS
